US03953430
Preparation of 4,9-Dihydro-9-(2-dimethylaminoethyl)-4-methyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one
A mixture of 0.4 g. of 55% sodium hydride-mineral oil dispersion 0.5 g. of 2-dimethylaminoethylchloride hydrochloride and 25 ml. of dry dimethylformamide is stirred at room temperature for 0.5 hours. To the mixture is added 0.4 g. of 4,9-dihydro-4-methyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one and stirring at room temperature is continued for 18 hours. The reaction mixture is cooled, quenched with water, acidified, decolorized and filtered. The filtrate is made alkaline and extracted with chloroform. The dried chloroform extracts are concentrated to give a solid which is recrystallized from chloroform-hexane to give off-white crystals, m.p. 147°-149°C.

reactant | sodium hydride | [H-].[Na+]
reactant | 2-dimethylaminoethylchloride hydrochloride | Cl.CN(CCCl)C
reactant | 4,9-dihydro-4-methyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one | CN1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2 | C12H10N2OS
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4,9-Dihydro-9-(2-dimethylaminoethyl)-4-methyl-10H-thieno[3,4-b] [1,5]benzodiazepin-10-one | CN(CCN1C(C=2C(N(C3=C1C=CC=C3)C)=CSC2)=O)C | C16H19N3OS
